US07951828B1
Step 1: Production of methyl 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoate
In a solution of 1.50 g of methyl 2-bromomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]benzoate in 20 mL of N,N-dimethylformamide, 0.48 g of dimethylamine hydrochloride and 1.48 g of triethylamine were added, and stirred at room temperature for 2 hours. After the completion of the reaction, 20 mL of water was added in the reaction mixture, and extracted with ethyl acetate (20 mL×2). The combined organic phases were dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that were eluated with ethyl acetate-hexane (1:3) to obtain 1.35 g of the aimed product as colorless resinous substance.

reactant | methyl 2-bromomethyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]benzoate | 1.50 g | BrCC1=C(C(=O)OC)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H13BrCl2F3NO3
reactant | dimethylamine hydrochloride | 0.48 g | Cl.CNC
reactant | triethylamine | 1.48 g | C(C)N(CC)CC | C6H15N
reactant | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | methyl 4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-(dimethyl-aminomethyl)benzoate | 1.35 g | ClC=1C=C(C=C(C1)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)OC)C=C1)C(N)(C)C)C(F)(F)F | C21H19Cl2F3N2O3
